US08017601B2
Methyl 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-naphthoate
Methyl 6-(trifluoromethylsulfonyloxy)-1-naphthoate (2.58 g, 7.7 mmol), 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (2.1 g, 8.12 mmol), potassium acetate (2.27 g, 23 mmol) were placed in DMSO (36 mL) and then Pd(dppf)2Cl2 (170 mg, 0.23 mmol) was added. Mixture was stirred at 80° C. overnight and then cooled to room temperature. Water was added and the mixture was extracted with ethyl acetate. Organic phase was dried, filtered and evaporated. Residue was purified by chromatography (3:1 hexanes-CH2Cl2->4:1 CH2Cl2-hexanes->1:2 ethyl acetate-hexanes) to give 2.2 g of the title compound.

reactant | Methyl 6-(trifluoromethylsulfonyloxy)-1-naphthoate | 7.7 mmol, 2.58 g | FC(S(=O)(=O)OC=1C=C2C=CC=C(C2=CC1)C(=O)OC)(F)F | C13H9F3O5S
reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 8.12 mmol, 2.1 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 23 mmol, 2.27 g | C(C)(=O)[O-].[K+]
reactant | Water | O | H2O
solvent | DMSO | 36 mL | CS(=O)C | C2H6OS
catalyst | Pd(dppf)2Cl2 | 0.23 mmol, 170 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Methyl 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-naphthoate | 2.2 g | CC1(OB(OC1(C)C)C=1C=C2C=CC=C(C2=CC1)C(=O)OC)C | C18H21BO4
